US04786644
A solution of 9.0 g of 1,2-dihydro-4-hydroxy-N-(4-methyl-2-thiazolyl)-1-phenyl-3-quinolinecarboxamide in 250 ml of hot toluene was treated with 36.0 g of activated manganese dioxide and stirred for two hours at ambient temperature. The slurry was filtered and evaporated. Recrystallization of the residue from chloroform yielded 6.0 g (66%) of 1,4-dihydro-N-(4-methyl-2-thiazolyl)-4-oxo-1-phenyl-3-quinolinecarboxamide, m.p. 252°-254° C.

reactant | 1,2-dihydro-4-hydroxy-N-(4-methyl-2-thiazolyl)-1-phenyl-3-quinolinecarboxamide | 9.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC=1SC=C(N1)C | C20H17N3O2S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 36.0 g | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-N-(4-methyl-2-thiazolyl)-4-oxo-1-phenyl-3-quinolinecarboxamide | 6.0 g, 66% | CC=1N=C(SC1)NC(=O)C1=CN(C2=CC=CC=C2C1=O)C1=CC=CC=C1 | C20H15N3O2S
